US06784323B2
(R)-Benzoic acid 2-(1-methyl-1H-indol-3-yl)-4-oxo-butyl ester (1.65 g, 5.10 mmol) was dissolved in CH2Cl2 (50 mL). This solution was treated with p-TSA (20 mg) and ethylene glycol (1.4 mL, 26 mmol). The reaction was stirred at room temperature overnight, at which time the organics were removed in vacuo. The solution was diluted with H2O (10 mL) and extracted with Et2O (3×20 mL). The collected organics were washed with brine, dried over Na2SO4 and concentrated in vacuo to provide (R)-benzoic acid 3-[1,3]dioxolan-2-yl-2-(1-methyl-1H-indol-3-yl)-propyl ester. The unpurified product was dissolved in MeOH/THF (18 mL/18 mL) and allowed to stir at room temperature for 10 min. To this was added a 4% NaOH/MeOH (18 mL) solution. The reaction was allowed to stir at room temperature for 1 h. The solution was diluted with H2O (10 mL) and extracted with Et2O (3×20 mL). The collected organics were washed with brine, dried over Na2SO4 and concentrated in vacuo to provide (R)-3-[1,3]dioxolan-2-yl-2-(1-methyl-1H-indol-3-yl)-propan-1-ol (600 mg, 2.30 mmol) after silica gel chromatography (50:50 Et2O/hexanes). 50% Et2O/hexanes). (R)-3-[1,3]Dioxolan-2-yl-2-(1-methyl-1H-indol-3-yl)-propan-1-ol (69.5 mg, 0.267 mmol) was dissolved in CH2Cl2 (8 mL) and Et3N (56 μl, 0.40 mmol). The reaction was cooled to 0° C. and treated with methanesulfonyl chloride (31 μl, 0.40 mmol). The reaction stirred for 1.5 h at this temperature then was allowed to warm to room temperature and stirred for an additional 10 min. The solution was diluted with H2O (5 mL) and extracted with Et2O (3×10 mL). The collected organics were washed with brine, dried over Na2SO4 and concentrated in vacuo to provide (R)-methanesulfonic acid 3-[1,3]dioxolan-2-yl-2-(1-methyl-1H-indol-3-yl)-propyl ester. Deoxygenation was performed following the method of Holder and Matturro (1977) J. Org. Chem. 42:2166.

reactant | (R)-Benzoic acid 2-(1-methyl-1H-indol-3-yl)-4-oxo-butyl ester | 5.10 mmol, 1.65 g | CN1C=C(C2=CC=CC=C12)[C@H](COC(C1=CC=CC=C1)=O)CC=O | C20H19NO3
reactant | p-TSA | 20 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | ethylene glycol | 26 mmol, 1.4 mL | C(CO)O | C2H6O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (R)-benzoic acid 3-[1,3]dioxolan-2-yl-2-(1-methyl-1H-indol-3-yl)-propyl ester | O1C(OCC1)C[C@@H](COC(C1=CC=CC=C1)=O)C1=CN(C2=CC=CC=C12)C | C22H23NO4
